US03988448
The solution of 8.2 g of acetonitrile in 200 ml of tetrahydrofuran is added dropwise to the solution of 14.08 g of butyl lithium in 125 ml of tetrahydrofuran and 125 ml of n-hexane while stirring at -70° under nitrogen and stirring is continued for 1 hour. Thereupon the solution of 36.4 g benzophenone in 200 ml of tetrahydrofuran is added dropwise and the mixture stirred for 20 minutes at room temperature. It is poured onto 300 g of ice and 100 ml of 3N hydrochloric acid, the organic layer separated and the aqueous phase extracted three times with 50 ml of diethyl ether. The combined organic solutions are dried, evaporated and the residue recrystallized from ethanol, to yield the β-hydroxy-β,β-diphenyl-propionitrile melting at 136°-138°.

reactant | acetonitrile | 8.2 g | C(C)#N | C2H3N
reactant | butyl lithium | 14.08 g | C(CCC)[Li]
reactant | benzophenone | 36.4 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | hydrochloric acid | 3N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 125 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | β-hydroxy-β,β-diphenyl-propionitrile | OC(CC#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C15H13NO
